US04762838
4-Trifluoromethyl-N-pivaloylaniline
To a solution of 6.87 g (0.043 mol) of 4-trifluoromethylaniline in 110 ml of dichloromethane was added 5.25 ml (0.043 mol) of pivaloylchloride. After stirring for 1.5 hours, 190 ml of a saturated solution of aqueous sodium bicarbonate was added. The reaction proceeded an additional 2 hours and the organic layer was separated and dried over anhydrous magnesium sulfate. The solution was filtered and the solvent removed to give the title compound, yield 9.16 g (88%), m.p. 154°-158° C.

reactant | 4-trifluoromethylaniline | 0.043 mol, 6.87 g | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | pivaloylchloride | 0.043 mol, 5.25 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 110 ml | ClCCl | CH2Cl2
product | 4-Trifluoromethyl-N-pivaloylaniline | FC(C1=CC=C(NC(C(C)(C)C)=O)C=C1)(F)F | C12H14F3NO
